US04024274
7.4 g of 2-hydroxy-3-chloro-5-methyl-N-methyl-N-cyclooctylbenzylamine were dissolved in 40 ml of hot absolute ethanol and added to a sodium ethylate solution that had been prepared from 0.6 g of sodium in 25 ml of absolute ethanol. After addition of 4.5 g of benzenesulfonic acid ethyl ester, the whole was stirred for 5 hours under reflux, concentrated, the residue was dissolved in 50 ml of 5% sodium hydroxide solution, extracted with ether and the organic phase was dried over sodium sulfate. The solvent was removed and after addition of 70 ml of water and hydrochloric acid until acid reaction the residue was covered with 50 ml of ether and allowed to stand for several days at 0° C. In this manner, 6 g of 2-ethoxy-3-chloro-5-methyl-N-methyl-N-cyclooctyl-benzylamine-hydrochloride were obtained. Melting point 197° C (ethanol/ether).

reactant | 2-hydroxy-3-chloro-5-methyl-N-methyl-N-cyclooctylbenzylamine | 7.4 g | OC1=C(CN(C2CCCCCCC2)C)C=C(C=C1Cl)C | C17H26ClNO
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 0.6 g | [Na] | Na
reactant | benzenesulfonic acid ethyl ester | 4.5 g | C(C)OS(=O)(=O)C1=CC=CC=C1 | C8H10O3S
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-ethoxy-3-chloro-5-methyl-N-methyl-N-cyclooctyl-benzylamine-hydrochloride | 6 g | Cl.C(C)OC1=C(CN(C2CCCCCCC2)C)C=C(C=C1Cl)C | InChI=1S/C19H30ClNO.ClH/c1-4-22-19-16(12-15(2)13-18(19)20)14-21(3)17-10-8-6-5-7-9-11-17;/h12-13,17H,4-11,14H2,1-3H3;1H
